US07846929B2
A mixture of 3-chloro-propane-1-sulfonic acid dimethylamide (1.06 g) and sodium iodide (2.57 g) in 2-butanone (20 mL) was heated at 80° C. for 16 h. After cooling to room temperature the solvent was reduced in vacuo. The residue was partitioned between ethyl acetate (20 mL) and water (20 mL). The organic layer was dried (MgSO4) and reduced in vacuo to give 3-iodo-propane-1-sulfonic acid dimethylamide as a yellow solid.

reactant | 3-chloro-propane-1-sulfonic acid dimethylamide | 1.06 g | CN(S(=O)(=O)CCCCl)C | C5H12ClNO2S
reactant | sodium iodide | 2.57 g | [I-].[Na+]
solvent | 2-butanone | 20 mL | CC(CC)=O | C4H8O
product | 3-iodo-propane-1-sulfonic acid dimethylamide | CN(S(=O)(=O)CCCI)C | C5H12INO2S
